Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17]>>[H:13].[H:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[C:14]([H:15])([H:16])[H:17],4.39861898437
[H:1][C:2]([H:3])[O:4][C:5]#[C:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14].[H:6]>>[H:1][C:2]([H:3])[O:4]/[C:5]([H:6])=[C:7]/[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],-2.25014469539
[C:3]([O:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[H:1][C:2]>>[H:1][C:2]=[C:3]([O:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-6.8984458471100005
[H:1][C:2][O:3]/[C:4]([H:5])=[C:6]/[O:7][C:8]([H:9])[H:10]>>[H:1][C:2][O:3][C:4]#[C:6][O:7][C:8]([H:9])[H:10].[H:5],3.39881801774
[O:1].[O:2]=[C:3]([C:4][C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[H:12]>>[O:1][O:2]/[C:3](=[C:4]\[C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[H:12],-1.36700066166
[H:3].[O:1]=[C:2]([C:4]#[C:5][H:6])[O:7][C:8]([H:9])([H:10])[H:11]>>[O:1][C@@:2]([H:3])([C:4]#[C:5][H:6])[O:7][C:8]([H:9])([H:10])[H:11],-0.1839371211679999
[H:1][C:2]=[C:3]([H:4])[O:5][C:6][C:7]([H:8])([H:9])[C:10]([H:11])[H:12]>>[H:1][C:2]=[C:3]([H:4])[O:5][C:6][C:7]([H:8])=[C:10]([H:11])[H:12].[H:9],1.54676557323
[H:1][O:2][C:3]([H:4])([H:5])[C:6](=[C:7]([H:8])[H:9])[C:10]([H:11])=[C:12]([H:13])[H:14]>>[C:7]([H:8])=[C:12]([H:13])[H:14].[H:1][O:2][C:3]([H:4])([H:5])[C:6]=[C:10]([H:9])[H:11],5.0471309068400005
[O:1][O:2]/[C:3]([H:4])=[C:5]/[C:6]([H:7])([H:8])[C:9]([H:10])[H:11]>>[O:1][O:2][C:3]([H:4])=[C:5]1[C:6]([H:7])([H:8])[C:9]1([H:10])[H:11],-2.78325364085
[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]#[C:9][H:10]>>[H:4].[O:1]=[C:2]([H:3])[C:5]([H:6])([H:7])[C:8]#[C:9][H:10],1.13634941924
[H:1][C:2]=[C:3]([H:4])[C@:5]([H:6])([O:7][H:8])[C:9]([H:10])([H:11])[O:12][H:13]>>[H:13].[H:1][C:2]=[C:3]([H:4])[C@:5]([H:6])([O:7][H:8])[C:9]([H:10])([H:11])[O:12],4.64142375041
[O:1]=[C:2]=[C:3]([H:4])[C:5](=[O:6])[C:7]([H:8])[H:9]>>[C:5](=[O:6])=[C:7]([H:8])[H:9].[O:1][C:2]#[C:3][H:4],1.92797087227
[O:1]=[C:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])([H:9])[H:10]>>[C:3]([H:4])([H:5])[O:6][C:7]([H:8])([H:9])[H:10].[O:1]=[C:2],0.568065988591
[H:1][C:2][O:3][C:4]([H:5])[O:6][C:7]#[C:8][H:9]>>[C:4]([H:5])[O:6][C:7]#[C:8][H:9].[H:1][C:2]=[O:3],0.69471803979
[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])[O:9][C:10]([H:11])([H:12])[H:13]>>[H:6].[O:1]=[C:2]([H:3])/[C:4]([H:5])=[C:7](\[H:8])[O:9][C:10]([H:11])([H:12])[H:13],1.61605244195
[H:1][O:2][C:3]([H:4])=[C:5]([H:6])[H:7]>>[H:1][O:2][C:3]([H:4])=[C:5][H:6].[H:7],5.11376410106
[C:3]([H:4])([H:5])[H:6].[H:1][C:2][C:7]([H:8])([H:9])[C:10][O:11][C:12]([H:13])([H:14])[H:15]>>[H:1][C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10][O:11][C:12]([H:13])([H:14])[H:15],-5.08895426455
[H:10].[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])[C:7]=[C:8]=[O:9]>>[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])[C:7]#[C:8][O:9][H:10],-1.817382287
[C:1][O:2][C:3]#[C:4][O:5][C:6][H:7].[H:8]>>[C:1][O:2][C:3]#[C:4][O:5][C:6]([H:7])[H:8],-4.36907223442
[H:1][C:2][O:3][C@:4]([H:5])([O:6][C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[H:1][C:2].[O:3][C@:4]([H:5])([O:6][C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],6.148817318119999
[C:9][H:10].[O:1]=[C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[O:8]>>[O:1]=[C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[O:8][C:9][H:10],-6.03143290175
[O:1]=[C:2]([H:3])[C@@:4]1([H:5])[C:6][O:7][C:8]1[H:9]>>[O:1]=[C:2]([H:3])[C:4]([H:5])([C:6])[C:8](=[O:7])[H:9],0.353952418311
[H:1][O:2][C:3][C:4]([H:5])[O:7][C:8]=[C:9]([H:10])[H:11].[H:6]>>[H:1][O:2][C:3][C:4]([H:5])([H:6])[O:7][C:8]=[C:9]([H:10])[H:11],-2.92948159705
[C:1]=[C:2]([O:3][H:4])[C:5]([H:6])([H:7])[C:8]=[O:9]>>[C:1]#[C:2][O:3][H:4].[C:5]([H:6])([H:7])=[C:8]=[O:9],0.4991273006009999
[H:1][O:2][C:3]([H:4])=[C:5]([H:6])[H:7]>>[C:3]([H:4])=[C:5]([H:6])[H:7].[H:1][O:2],6.11163679329
[H:1][O:2][C:3]([H:4])([H:5])[C:6][O:7][C:8]([H:9])=[C:10]([H:11])[H:12]>>[C:8]([H:9])=[C:10]([H:11])[H:12].[H:1][O:2][C:3]([H:4])([H:5])[C:6]=[O:7],1.41913840364
[H:1][C:2][O:4][C:5]([H:6])([H:7])[O:8][C:9]([H:10])=[C:11]([H:12])[H:13].[H:3]>>[H:1][C:2]([H:3])[O:4][C:5]([H:6])([H:7])[O:8][C:9]([H:10])=[C:11]([H:12])[H:13],-3.74175488712
[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[O:13][H:14]>>[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[O:13][H:14].[H:1][C:2]#[C:3][C:4]([H:5])[H:6],3.4466736365199995
[H:1][O:2][C:3]([H:4])=[C:5]=[C:6]([O:7][H:8])[C:9]([H:10])([H:11])[H:12]>>[H:1].[O:2]=[C:3]([H:4])/[C:5]=[C:6](/[O:7][H:8])[C:9]([H:10])([H:11])[H:12],3.78429254739
[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[O:7][C:8]([H:9])=[C:10]([H:11])[H:12]>>[H:1].[O:2]=[C:3]([H:4])[C:5]([H:6])[O:7][C:8]([H:9])=[C:10]([H:11])[H:12],3.27026003537
[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[O:7][C:8]([H:9])([H:10])[C:11]=[C:12]([H:13])[H:14]>>[H:1][C:2]([H:3])=[C:4]([H:5])[O:7][C:8]([H:9])([H:10])[C:11]=[C:12]([H:13])[H:14].[H:6],1.6531524056600002
